US05445762
4,10-Bis(1-adamantylcarbonyl)-1,7-dioxa-4,10-diazacyclododecane
Analogously to Example 2 from 1,7-dioxa-4,10-diazacyclododecane and 1-adamantylcarbonyl chloride.

reactant | 1,7-dioxa-4,10-diazacyclododecane | O1CCNCCOCCNCC1 | C8H18N2O2
reactant | 1-adamantylcarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
product | 4,10-Bis(1-adamantylcarbonyl)-1,7-dioxa-4,10-diazacyclododecane | C12(CC3CC(CC(C1)C3)C2)C(=O)N2CCOCCN(CCOCC2)C(=O)C23CC1CC(CC(C2)C1)C3 | C30H46N2O4
